US05472962
27 mg of (6-hydroxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone was dissolved in 1 ml of pyridine, 0.1 ml of benzoyl chloride was added, and the mixture was stirred at room temperature for 1 hour. After addition of ice, the reaction mixture was stirred for 1 hour and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off, and the resultant crude product was purified by TLC (developing solvent, chloroform:methanol=9:1) to obtain 37 mg of (6-benzoyloxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone.

reactant | (6-hydroxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 27 mg | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCCCC2)C1 | C28H33NO3S
reactant | benzoyl chloride | 0.1 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | (6-benzoyloxy-2-cyclohexylbenzo[b]thien-3-yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 37 mg | C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCCCC2)C1 | C35H37NO4S
